US07858621B2
To a suspension of 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (20 mg, 0.062 mmol) in THF (1 ml) was added an aqueous solution of 0.5 N-LiOH (0.3 ml), and the mixture was stirred for 3 hours at room temperature. The resulting residue was dissolved in H2O and then washed three times with EtOAc, acidified with 1N HCl to pH 1˜2. The solution was extracted three times with methylene chloride and then dried over anhyd. Na2SO4 and concentrated in vacuo to give 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (19 mg, 96%). To a suspension of N-(4-aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide, HCl salt (21 mg, 0.074 mmol) in THF (3 mL) was added N-methylmorpholine (0.015 ml, 0.148 mmol). The mixture was stirred for 5 minutes, to which were added 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (19 mg, 0.065 mmol) and 4-(4,6-dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (DMTMM, 19 mg, 0.068 mmol). The mixture was stirred overnight at room temperature and was concentrated under reduced pressure. The residue was diluted with EtOAc and water. The organic layer was washed with saturated sodium bicarbonate, 1N HCl and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by recrystallization from Et2O to give N-(3-ethynyl-5-fluoro-4-methane sulfonylamino-benzyl)-3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylamide (18 mg, 56%).

reactant | 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 0.062 mmol, 20 mg | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)C1=CC=CC=C1)=O | C17H14F3NO2
reactant | LiOH | 0.3 ml | [Li+].[OH-]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 19 mg, 96% | C1(=CC=CC=C1)C1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C15H10F3NO2
